US08217028B2
DABCO (64 mg) was added to a solution of 3-[6-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propanoic acid (E81) (60 mg) in dimethyl carbonate (3 mL) and DMF (2 mL). The resulting mixture was heated at reflux for 5 days. After cooling, the reaction was quenched with water, and extracted with EtOAc for 3 times. The combined organic solution was washed with brine, and dried over anhydrous sodium sulfate. The dried solution was concentrated. The residue was dissolved in iPrOH (3 mL) and water (3 mL). Sodium hydroxide (20 mg) was added to the mixture. The resulting mixture was heated at 90° C. for 1 hour. Then 0.5 M HCl solution was added until pH was about 6. The solvent was concentrated, and the residue was dissolved in water. The precipitated solid was purified by Mass Directed Auto Prep to afford 3-[6-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]propanoic acid (E82) (18 mg) as an off-white solid. δH (DMSO-d6, 400 MHz): 1.38 (6H, d), 2.60 (2H, t), 2.96 (2H, t), 3.84 (3H, s), 5.46 (1H, m), 7.32 (1H, s), 7.75 (2H, m), 8.12 (1H, s), 8.57 (1H, d), 8.94 (1H, d), 12.08 (1H, br s). MS (ES): C22H21ClN4O4 requires 440. found 441.1.

reactant | DABCO | 64 mg | C1CN2CCN1CC2 | C6H12N2
reactant | 3-[6-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propanoic acid | 60 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC=C2C(=CNC2=C1)CCC(=O)O | C21H19ClN4O4
solvent | dimethyl carbonate | 3 mL | C(OC)(OC)=O | C3H6O3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[6-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]propanoic acid | 18 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC=C2C(=CN(C2=C1)C)CCC(=O)O | C22H21ClN4O4
